US06756382B2
Using the general method of Example 205, 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 7.83 mmol) was reacted with isobutyryl chloride (835 mg, 7.83 mmol). The product was recrystallized from methyl acetate to provide 1.11 g of N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-2-methylpropanamide as an off white powder, m.p. 239.0-240.1° C. Analysis: Calculated for C18H23N5O.0.20 C3H6O2: % C, 65.66; % H, 7.17; % N, 20.58. Found: % C, 65.51. % H, 7.05; % N, 20.71.

reactant | 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.83 mmol, 2.00 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H17N5
reactant | isobutyryl chloride | 7.83 mmol, 835 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-2-methylpropanamide | 1.11 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(C(C)C)=O)C | C18H23N5O
